US08957062B2
Step A: 2-[2-fluoro-4-(2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethoxy)phenyl]acetohydrazide
To a solution [2-fluoro-4-(2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethoxy)phenyl]acetic acid (500 mg, 1.152 mmol) in 5 mL of THF cooled to −10° C. via dry ice/methanol bath was added TEA (0.177 mL, 1.268 mmol) followed by methyl chloroformate (0.098 mL, 1.268 mmol) and the resulting mixture stirred for 30 minutes at −10° C. (Precipitate formed after 1 minute of stirring). Filter off the precipitate and wash the solids with 10 mL THF. The filtrate was concentrated under reduced pressure and the residue was used as is for the next reaction sequence. To a solution of this mixed anhydride (265 mg, 0.539 mmol) in 1 mL DMF was added hydrazine monohydrate (0.052 mL, 1.077 mmol) and the resulting mixture stirred overnight at room temperature. The mixture was diluted with ethyl acetate (3 mL) and washed with water (2 mL) followed by brine (2 mL). The organics were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified via preparative TLC plate (1000 μM, silica gel) developing with 5% methanol in DCM. The band containing the product was washed with 10% methanol in DCM to elute off the product. The solution was concentrated under reduced pressure to afford the product as a white solid. HPLC/MS; 1.35 min (2 minute run), 446 (M+H)+.

reactant | [2-fluoro-4-(2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethoxy)phenyl]acetic acid | 1.152 mmol, 500 mg | FC1=C(C=CC(=C1)OCC[C@H]1[C@H](C1)C1CCN(CC1)C1=NC(=NO1)C(C)C)CC(=O)O | C23H30FN3O4
reactant | methyl chloroformate | 1.268 mmol, 0.098 mL | ClC(=O)OC | C2H3ClO2
reactant | hydrazine monohydrate | 1.077 mmol, 0.052 mL | O.NN
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 2-[2-fluoro-4-(2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethoxy)phenyl]acetohydrazide | FC1=C(C=CC(=C1)OCC[C@H]1[C@H](C1)C1CCN(CC1)C1=NC(=NO1)C(C)C)CC(=O)NN | C23H32FN5O3
